US04510158
A mixture of 100 g (0.52 mol) of 2-phenylindole, 80.8 g (0.57 mol) of 4-cyclohexanonecarboxylic acid, 518 mL of acetic acid, 103.6 mL of acetic anhydride and 25.9 mL of 85% phosphoric acid was stirred at room temperature for 3 days and then chilled in an ice bath to 20° C. The precipitate that resulted was collected, washed with water, pressed dry, taken up in ether, and this solution was washed with water three times and with brine one time, dried over magnesium sulfate, charcoaled, evaporated at 200 mL, and let stand for 2 days to give a precipitate. This precipitate was collected and combined with a second crop to give 72.7 g (44%) of 4-(2-phenyl-1H-indol-3-yl)-3-cyclohexene-1-carboxylic acid, m.p. 178°-179° C. A small portion was recrystallized from acetonitrile, m.p. 180°-183° C.

reactant | 2-phenylindole | 0.52 mol, 100 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | acetic anhydride | 103.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | phosphoric acid | 25.9 mL | P(O)(O)(O)=O | H3O4P
solvent | acetic acid | 518 mL | C(C)(=O)O | C2H4O2
product | 4-(2-phenyl-1H-indol-3-yl)-3-cyclohexene-1-carboxylic acid | 72.7 g, 44% | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1C1=CCC(CC1)C(=O)O | C21H19NO2
